2136-10-24 07:08:00 Physician Resident Progress Note
Chief Complaint: Hematemesis
   24 Hour Events:
   EGD:
   Grade 4 esophagitis in GT junction
   Gastritis, duodenitis
   Got 2u PRBCs and 2.5L IVFs
   Renal is considering dialysis. Would like urology to rule out
   obstruction before they do dialysis.
   Urology recs: urgent add on for tomorrow morning for retrograde urogram
   and cystoscopy
   Anesthesia evaluated him overnight
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2136-10-23**] 03:45 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2136-10-24**] 07:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.8
C (98.2
   HR: 87 (82 - 106) bpm
   BP: 86/51(60) {71/33(44) - 108/76(82)} mmHg
   RR: 19 (14 - 27) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  7,824 mL
                                                                    344 mL
   PO:
                                                                     50 mL
                                                                    100 mL
   TF:
   IVF:
                                                                  3,074 mL
                                                                    244 mL
   Blood products:
                                                                    700 mL
   Total out:
                                                                  1,234 mL
                                                                    200 mL
   Urine:
                                                                    534 mL
                                                                    200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  6,590 mL
                                                                    144 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: 7.31/44/94.[**Numeric Identifier 299**]/24/-4
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   174 K/uL
   12.8 g/dL
   69 mg/dL
   11.1 mg/dL
   24 mEq/L
   4.6 mEq/L
   94 mg/dL
   93 mEq/L
   136 mEq/L
   37.5 %
   12.1 K/uL
        [image002.jpg]
                            [**2136-10-23**]  04:09 PM
                            [**2136-10-23**]  06:59 PM
                            [**2136-10-23**]  10:37 PM
                            [**2136-10-24**]  03:39 AM
   WBC
   11.5
   12.1
   Hct
   33.3
   34.4
   37.5
   Plt
   190
   174
   Cr
   13.8
   11.1
   TCO2
   23
   Glucose
   106
   69
   Other labs: PT / PTT / INR:13.7/22.3/1.2, CK / CKMB /
   Troponin-T:6867//, ALT / AST:32/111, Alk Phos / T Bili:69/0.5, Amylase
   / Lipase:/148, Lactic Acid:0.9 mmol/L, LDH:469 IU/L, Ca++:5.8 mg/dL,
   Mg++:2.4 mg/dL, PO4:9.3 mg/dL
   Assessment and Plan
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
   52 yo M with a history of alcohol abuse who presents with hematemesis,
   nausea, vomiting, anuria x4 days, and acute renal failure.
   .
   .
   # Hematemesis: Patient has had 4 days of hematemesis. Never had this
   before. Given alcohol history this may be gastritis. No known prior
   liver disease, so varices less likely. NG lavage yielded 0.6L of coffee
   ground emesis, so this is unlikely to be hemoptysis. Coags within
   normal limits. HCT currently 40, however this is likely
   hemoconcentrated as patient is anuric.
   -active T&S
   -2 PIVs
   -GI consulted: Plan for emergent EGD now. Severe esophagitis.
   -repeat HCT now. Transfuse 2 units now, per GI recs.
   -IV PPI q12h
   -Carafate slurry 1g qid, separate from PPI
   .
   .
   #  Acute renal failure: Cr 15.5, baseline 1.0. Likely prerenal from
   above hematemesis. Electrolytes within normal limits. Not fluid
   overloaded. Hypochloremia likely secondary to vomiting. Foley placed in
   ED. No history of BPH or prostate cancer. Patient was hypotensive in
   ED, and received 2L IV fluids. CK 7399. Rhabdomyolysis likely
   contributing to ARF.
   -IV fluids to keep MAPs>55
   -repeat chem 10
   -Urine lytes
   -foley catheter
   -Renal consulted -f/u recs: check ABG, serum osms, SPEP, UPEP, C3, C4.
   -trend CK
   .
   # Anion gap metabolic acidosis: AG of 25.
   .
   # Hypotension: Secondary to hematemesis, hypovolemia.
   -IV fluids until MAPs>55
   -2 units pRBCs now
   -check lactate
   -panculture
   -consider an echo in AM
   .
   # Alcohol abuse:
   -f/u urine and serum tox
   -will need social work consult once stabilizes
   -if becomes hypertensive, agitated, or tachycardic, consider CIWA scale
   .
   .
   # elevated lipase: 100 in ED. Some mild epigastric pain. This is less
   likely fulminant pancreatitis given clinical exam.
   -recheck in AM
   -NPO for hematemesis
   -IV fluids for hypotension and renal failure.
   .
   # Hypertension: currently hypotensive. Hold HCTZ and lisinopril.
   .
   # Chronic pain: Continue outpatient regimen of morphine once
   hypotension resolves.
   .
   # Depression: continue risperdal per outpatient regimen.
   .
   # FEN: IVFs / replete lytes prn / NPO
   # PPX: PPI, pneumoboots, bowel regimen
   # ACCESS: PIV x2
   # CODE:  FULL
   # CONTACT:
   # DISPO: ICU
   .
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2136-10-23**] 03:37 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2136-10-24 09:14:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   - GI consult s/p endoscopy with grade IV esophagitis
   - Renal consult - concerned patient may need HD but given that he only
   has 1 kidney, they wanted urology to r/o obstruction prior to that
   - 2 units of PRBC, 2.5 L IVF
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2136-10-23**] 03:45 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2136-10-24**] 09:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.8
C (98.3
   HR: 95 (82 - 106) bpm
   BP: 113/61(72) {71/33(44) - 113/89(93)} mmHg
   RR: 19 (14 - 27) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  7,824 mL
                                                                    391 mL
   PO:
                                                                     50 mL
                                                                    100 mL
   TF:
   IVF:
                                                                  3,074 mL
                                                                    291 mL
   Blood products:
                                                                    700 mL
   Total out:
                                                                  1,234 mL
                                                                    470 mL
   Urine:
                                                                    534 mL
                                                                    470 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  6,590 mL
                                                                    -79 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: 7.31/44/94.[**Numeric Identifier 299**]/24/-4
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   12.8 g/dL
   174 K/uL
   69 mg/dL
   11.1 mg/dL
   24 mEq/L
   4.6 mEq/L
   94 mg/dL
   93 mEq/L
   136 mEq/L
   37.5 %
   12.1 K/uL
        [image002.jpg]
                            [**2136-10-23**]  04:09 PM
                            [**2136-10-23**]  06:59 PM
                            [**2136-10-23**]  10:37 PM
                            [**2136-10-24**]  03:39 AM
   WBC
   11.5
   12.1
   Hct
   33.3
   34.4
   37.5
   Plt
   190
   174
   Cr
   13.8
   11.1
   TCO2
   23
   Glucose
   106
   69
   Other labs: PT / PTT / INR:13.7/22.3/1.2, CK / CKMB /
   Troponin-T:6867//, ALT / AST:32/111, Alk Phos / T Bili:69/0.5, Amylase
   / Lipase:/148, Lactic Acid:0.9 mmol/L, LDH:469 IU/L, Ca++:5.8 mg/dL,
   Mg++:2.4 mg/dL, PO4:9.3 mg/dL
   Imaging: Renal U/S - Echogenic right kidney consistent with underlying
   medical renal disease.  Up to 2.6 cm hypodense right renal lesion may
   represent a hemorrhagic or
   proteinaceous cyst however incompletely evaluated on ultrasound and an
   MRI of the kidney can be obtained for further evaluation if clinically
   warranted as neoplasm cannot be excluded. Status post left
   nephrectomy.  No hydronephrosis.
   Microbiology: Blood/urine pending.
   Assessment and Plan
   This is a 52 y/o with a h/o ETOH abuse who p/w hematemsis, N/V, poor PO
   intake, and anuric renal failure.
   # Hypotension: Likely [**1-9**] acute blood loss from GI bleeding and poor PO
   intake.  No evidence for sepsis or cardiogenic etiologies.
   - 2 large bore PIV
   - IVF boluses to keep MAP>55, PRBC prn
   - F/U cultures
   - Hold anti-HTN meds
   # Hematemesis:  S/p GI endoscopy demonstrating severe esophagitis.  No
   active bleeding.
   - Active T&S, 2 PIV
   - q12h Hct; PRBC as necessary to keep Hct > 28
   - IV PPI [**Hospital1 **] and sulcrafate
   - Appreciate GI consult
   # Acute renal failure: Cr 15.5 from baseline of 1.0 ([**9-14**]), anuric.
   Likely prerenal hematemesis and poor PO intake.  Possible component of
   ATN if patient was hypotensive at home.  Also with elevated CK, so a
   component of rhabdo is possible.  Improved slightly with IVF.  Now
   concern over obstruction from cyst seen on U/S.
   - IV fluids and PRBC as above
   - Trend creatinine with volume resuscitation.
   - Foley catheter
   - Appreciate Renal consult
   - Plan for cystogram per urology then possible initiation of HD.  Will
   transfer to [**Hospital Unit Name 4**] to facilitate procedure.
   # Elevated CK: Likely [**1-9**] mild rhabdo, but unclear etiology.  ETOH use
   is a possibility. Denies any prolonged sedentary periods.
   - Trend CK
   - Trend electrolytes
   # Elevated lipase: 100 in ED. No abdominal pain.  Does not appear to be
   fulminant pancreatitis.  Unclear etiology.
   - Trend lipase
   - NPO, IVF
   - Consider abd CT if does not trend down in am
   # Elevated LFTs: Likely [**1-9**] ETOH abuse.
   - Trend
   - F/U HCV
   # Alcohol abuse:
   - CIWA scale
 not currently requiring.
   - Social work consult in am
   # O2 requirement:
   - Likely [**1-9**] volume rescucitation
   - HD as per renal
   - Consider TTE
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2136-10-23**] 03:37 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 25 minutes

2136-10-24 11:50:00 Physician Attending Progress Note
Chief Complaint: transferred from MICU green given need for cystoscopy
   by urology
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   52 y.o. man with EtOH abuse with hematemesis and anuria.  Transferred
   from MICU green service given need for cystoscopy by urology service.
   Renal US shows large cyst in functional kidney, no hydronephrosis. Plan
   was for cystoscopy to evaluate for obstruction.
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2136-10-23**] 03:45 PM
   Other medications:
   sucralfate
   CIWA scale, ativan
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Pain: [**2-8**] MildPain location: chronic back pain
   Flowsheet Data as of  [**2136-10-24**] 11:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37.3
C (99.1
   HR: 97 (82 - 106) bpm
   BP: 113/70(81) {71/33(44) - 128/94(101)} mmHg
   RR: 23 (14 - 27) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  7,824 mL
                                                                  1,415 mL
   PO:
                                                                     50 mL
                                                                    100 mL
   TF:
   IVF:
                                                                  3,074 mL
                                                                  1,315 mL
   Blood products:
                                                                    700 mL
   Total out:
                                                                  1,234 mL
                                                                    770 mL
   Urine:
                                                                    534 mL
                                                                    770 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  6,590 mL
                                                                    645 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: 7.31/44/94.[**Numeric Identifier 299**]/24/-4
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Wheezes : occasional expiratory
   wheeze)
   Abdominal: Non-tender, Distended
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   12.8 g/dL
   174 K/uL
   69 mg/dL
   11.1 mg/dL
   24 mEq/L
   4.6 mEq/L
   94 mg/dL
   93 mEq/L
   136 mEq/L
   37.5 %
   12.1 K/uL
        [image002.jpg]
                            [**2136-10-23**]  04:09 PM
                            [**2136-10-23**]  06:59 PM
                            [**2136-10-23**]  10:37 PM
                            [**2136-10-24**]  03:39 AM
   WBC
   11.5
   12.1
   Hct
   33.3
   34.4
   37.5
   Plt
   190
   174
   Cr
   13.8
   11.1
   TCO2
   23
   Glucose
   106
   69
   Other labs: PT / PTT / INR:13.7/22.3/1.2, CK / CKMB /
   Troponin-T:6867//, ALT / AST:32/111, Alk Phos / T Bili:69/0.5, Amylase
   / Lipase:/148, Lactic Acid:0.9 mmol/L, LDH:469 IU/L, Ca++:5.8 mg/dL,
   Mg++:2.4 mg/dL, PO4:9.3 mg/dL
   Assessment and Plan
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF):  Monitoring fluid
   status in setting of volume replacement.  Here for cystoscopy to rule
   out obstruction.   Some improvement in Cr with rehydration albeit still
   11.1, may need to further discuss decision about dialysis with renal
   attending.
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB):  No further
   hematemsis.  Hct stable.  Following serial hcts, PPI, NPO.
 COPD WITH EXACERBATION:  [**Month (only) 8**] be related to fluids, will start
   bronchodilators and monitor clinically.
 ALCOHOL ABUSE: On the CIWA scale for possible withdrawal.  No signs
   currently.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2136-10-23**] 03:37 PM
   Prophylaxis:
   DVT:
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : ICU
   Total time spent:  30 minutes

2136-10-25 07:22:00 Physician Resident Progress Note
TITLE: PHYSICIAN RESIDENT PROGRESS NOTE
   Chief Complaint:
   24 Hour Events:
 OR SENT - At [**2136-10-24**] 02:07 PM
 OR RECEIVED - At [**2136-10-24**] 03:30 PM
   - went for retrograde cystoscopy-> no source of obstruction
   - creatinine improving with IV fluids
   - noted to be tachypneic this a.m. -> CXR done at 3:30 a.m., which
   showed pulmonary edema
   - found patient to be tachypneic while pre-rounding
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2136-10-24**] 07:55 PM
   Carafate (Sucralfate) - [**2136-10-24**] 07:55 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2136-10-25**] 07:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.5
C (99.5
   HR: 88 (87 - 114) bpm
   BP: 105/56(67) {76/31(42) - 146/94(101)} mmHg
   RR: 27 (12 - 30) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  5,122 mL
                                                                    987 mL
   PO:
                                                                  1,460 mL
             TF:
   IVF:
                                                                  3,662 mL
                                                                    987 mL
   Blood products:
   Total out:
                                                                  2,920 mL
                                                                  1,795 mL
   Urine:
                                                                  2,920 mL
                                                                  1,795 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,202 mL
                                                                   -808 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///22/
   Physical Examination
   GENERAL: NAD
   HEENT: NCAT. PERRL. Oropharynx clear, no plaques or exudates. Neck
   supple. No LAD.
   CARDIAC: RRR. No murmurs.
   LUNG: CTAB. No wheezes or crackles.
   ABDOMEN: NT/ND No fluid wave. No rebound or guarding. no HSM
   SKIN: no stigmata of liver disease
   EXT: WWP. No LE edema.
   NEURO: A+O x3. Grossly non focal.
   DERM: No rashes.
   Labs / Radiology
   231 K/uL
   13.6 g/dL
   138 mg/dL
   4.5 mg/dL
   22 mEq/L
   3.6 mEq/L
   75 mg/dL
   102 mEq/L
   137 mEq/L
   39.5 %
   13.7 K/uL
        [image002.jpg]
                            [**2136-10-23**]  04:09 PM
                            [**2136-10-23**]  06:59 PM
                            [**2136-10-23**]  10:37 PM
                            [**2136-10-24**]  03:39 AM
                            [**2136-10-24**]  01:25 PM
                            [**2136-10-25**]  12:24 AM
                            [**2136-10-25**]  03:28 AM
   WBC
   11.5
   12.1
   13.7
   Hct
   33.3
   34.4
   37.5
   40.6
   39.5
   Plt
   190
   174
   231
   Cr
   13.8
   11.1
   8.3
   5.4
   4.5
   TropT
   0.06
   TCO2
   23
   Glucose
   106
   69
   65
   141
   138
   Other labs: PT / PTT / INR:13.3/22.3/1.1, CK / CKMB /
   Troponin-T:5367/21/0.06, ALT / AST:61/140, Alk Phos / T Bili:88/0.6,
   Amylase / Lipase:/148, Lactic Acid:0.9 mmol/L, LDH:473 IU/L, Ca++:6.8
   mg/dL, Mg++:2.1 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   52 yo M with a history of alcohol abuse who presents with hematemesis,
   nausea, vomiting, anuria x4 days, and acute renal failure.
   .
   # Hypotension: Secondary to hematemesis, hypovolemia. Improved. Has not
   needed pressors
   - IV fluids until MAPs>55
   - hold home morphine until persistently stable
   .
   # Acute renal failure: Cr 15.5, baseline 1.0, now improviing to 11.
   Electrolytes within normal limits. Not fluid overloaded. Hypochloremia
   likely secondary to vomiting. Foley placed in ED.  Patient was
   hypotensive in ED, and received 2L IV fluids. CK 7399. Rhabdomyolysis
   and pre-renal/hypotension likely contributing to ARF.
   -IV fluids to keep MAPs>55
   -repeat chem 10
   -foley catheter
   -Renal consulted -f/u recs: check ABG, serum osms, SPEP, UPEP, C3, C4.
   - appreciate urology reccs: to OR today for cystopscopy
   -trend CK
   .
   .
   # Hematemesis: [**1-9**] severe esophatitis, now resolved
   -active T&S
   -2 PIVs
   - HCT q8rs
   -IV PPI q12h
   -Carafate slurry 1g qid, separate from PPI
   .
   # Anion gap metabolic acidosis: AG of 25, nl lactate, tox only positive
   for opiates
   .
   # Alcohol abuse:
   -f/u urine and serum tox
   -will need social work consult once stabilizes
   - on CIWA scale
   .
   # Elevated LFT's: only AST elevated c/w alcohol abuse
   - f/u hepatitis panel
   .
   # Elevated lipase: 100 in ED. Had mild epigastric pain now resolved.
   This is less likely fulminant pancreatitis given clinical exam.
   -NPO for hematemesis
   -IV fluids for hypotension and renal failure
   .
   # Hypertension:
   - Hold HCTZ and lisinopril given recent hypotension
   .
   # Chronic pain: Continue outpatient regimen of morphine once
   hypotension resolves.
   .
   # Depression: continue risperdal per outpatient regimen.
   .
   # FEN: IVFs / replete lytes prn / NPO
   # PPX: PPI, pneumoboots, bowel regimen
   # ACCESS: PIV x2
   # CODE: FULL
   # CONTACT:
   # DISPO: ICU
   .
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2136-10-23**] 03:37 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2136-10-25 11:01:00 Physician Attending Progress Note
Chief Complaint: Acute renal failure, hypoxia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 OR SENT - At [**2136-10-24**] 02:07 PM
 OR RECEIVED - At [**2136-10-24**] 03:30 PM
   More tachypneic overnight requiring higher Fi02 - CXR consistent with
   fluid overload
   Diuresed with lasix
   History obtained from Patient
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2136-10-24**] 07:55 PM
   Carafate (Sucralfate) - [**2136-10-24**] 07:55 PM
   Furosemide (Lasix) - [**2136-10-25**] 09:15 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Genitourinary: Foley
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2136-10-25**] 11:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.5
C (99.5
   HR: 95 (82 - 114) bpm
   BP: 143/73(91) {76/31(42) - 146/84(94)} mmHg
   RR: 26 (12 - 30) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  5,122 mL
                                                                    987 mL
   PO:
                                                                  1,460 mL
             TF:
   IVF:
                                                                  3,662 mL
                                                                    987 mL
   Blood products:
   Total out:
                                                                  2,920 mL
                                                                  3,295 mL
   Urine:
                                                                  2,920 mL
                                                                  3,295 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,202 mL
                                                                 -2,308 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///22/
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   bases)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   13.6 g/dL
   231 K/uL
   138 mg/dL
   4.5 mg/dL
   22 mEq/L
   3.6 mEq/L
   75 mg/dL
   102 mEq/L
   137 mEq/L
   39.5 %
   13.7 K/uL
        [image002.jpg]
                            [**2136-10-23**]  04:09 PM
                            [**2136-10-23**]  06:59 PM
                            [**2136-10-23**]  10:37 PM
                            [**2136-10-24**]  03:39 AM
                            [**2136-10-24**]  01:25 PM
                            [**2136-10-25**]  12:24 AM
                            [**2136-10-25**]  03:28 AM
   WBC
   11.5
   12.1
   13.7
   Hct
   33.3
   34.4
   37.5
   40.6
   39.5
   Plt
   190
   174
   231
   Cr
   13.8
   11.1
   8.3
   5.4
   4.5
   TropT
   0.06
   TCO2
   23
   Glucose
   106
   69
   65
   141
   138
   Other labs: PT / PTT / INR:13.3/22.3/1.1, CK / CKMB /
   Troponin-T:5367/21/0.06, ALT / AST:61/140, Alk Phos / T Bili:88/0.6,
   Amylase / Lipase:/148, Lactic Acid:0.9 mmol/L, LDH:473 IU/L, Ca++:6.8
   mg/dL, Mg++:2.1 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF):  No obstruction
   noted on cystoscopy.  Creatinine shows marked improvement with
   continued volume replacement.
 HYPOXIA:  Congestive heart failure in setting of aggressive volume
   replacement. Responds well to lasix, clinically improved with
   diuresis.  Stable to go the medical floor.
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB):  Hct continues
   to be stable.  Continue PPI and sucralfate.  Tolerating clear liquids,
   advance diet as tolerated.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2136-10-23**] 03:37 PM
   20 Gauge - [**2136-10-24**] 03:56 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 30 minutes
   Patient is critically ill